US06902860B2
Into a 1 liter flask 600 ml of acetonitrile, 95.2 g (1.1 mol) of methacrylic acid and 120.1 g (1.1 mol) of chloroformic acid ethyl ester were added. To this mixture 111.8 g (1.1 mol) of triethylamine was added over a period of 1 hour in a cold bath. Stirring was continued for 1 hour at room temperature. 137.1 g (1 mol) of 4-aminobezoic acid was added to the mixture. The mixture was heated for 2 hours at 50° C. The mixture was poured into 5 liter of 1% HCl solution. The deposit was filtered, washed and dried to produce 170.9 g of N-(4-carboxyphenyl)-methacrylamide.

reactant | methacrylic acid | 1.1 mol, 95.2 g | C(C(=C)C)(=O)O | C4H6O2
reactant | chloroformic acid ethyl ester | 1.1 mol, 120.1 g | C(C)OC(=O)Cl | C3H5ClO2
reactant | triethylamine | 1.1 mol, 111.8 g | C(C)N(CC)CC | C6H15N
reactant | 4-aminobezoic acid | 1 mol, 137.1 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | HCl | 5 liter | Cl | ClH
solvent | acetonitrile | 600 ml | C(C)#N | C2H3N
product | N-(4-carboxyphenyl)-methacrylamide | 170.9 g | C(=O)(O)C1=CC=C(C=C1)NC(C(=C)C)=O | C11H11NO3
